US08460445B2
Synthesis of N-(2-mercaptoethyl)pentanamide
Under a nitrogen atmosphere, 22.7 g of 2-mercaptoethylamine hydrochloride (0.2 mol) and 44.3 g of potassium carbonate (0.32 mol) were introduced at room temperature in solution in 130 ml of water. The solution was warmed to 40° C. and 12.0 g of valeryl chloride (0.1 mol) were added dropwise over the course of 15 minutes. The batch was stirred at 40° C. for 3 hours and then cooled to room temperature. 70 ml of dichloromethane were added and a phase separation was carried out. The organic phase was washed with 50 ml of 20% strength ammonium chloride solution, dried over sodium sulfate and freed of its solvent under reduced pressure.

reactant | 2-mercaptoethylamine hydrochloride | 0.2 mol, 22.7 g | Cl.SCCN
reactant | potassium carbonate | 0.32 mol, 44.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | valeryl chloride | 0.1 mol, 12.0 g | C(CCCC)(=O)Cl | C5H9ClO
reactant | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | water | 130 ml | O | H2O
product | N-(2-mercaptoethyl)pentanamide | SCCNC(CCCC)=O | C7H15NOS
